US06096771
(a) 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-4-carboxy-5-fluoro-1,2-benzisoxazole
To a solution of 3-(2-(N-t-butoxycarbonylamino)ethoxy)-5-fluoro-1,2-benzisoxazole (0.30 g) in tetrahydrofuran (20 ml) was added lithium diisopropylamide (1.4 ml, 1.5M cyclohexane solution) dropwise at -70° C. under nitrogen atmosphere, and the reaction mixture was stirred at the same temperature for 15 minutes. Gaseous carbon dioxide was introduced for 10 minutes and the temperature was allowed to rise to 0° C. The reaction mixture was poured into ice water (40 ml) and washed with diethylether (40 ml each) twice. The aqueous layer was separated, and after the pH was adjusted to 4 with potassium dihydrogen phosphate, it was then extracted with ethyl acetate (each with 40 ml) twice. The combined extracts were dried over anhydrous magnesium sulphate, filtered and the solvent was evaporated under reduced pressure to give the title compound (0.31 g, 90% yield) as a colorless oil.

reactant | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-5-fluoro-1,2-benzisoxazole | 0.30 g | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C=C(C=C2)F | C14H17FN2O4
reactant | lithium diisopropylamide | 1.5M, 1.4 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-4-carboxy-5-fluoro-1,2-benzisoxazole | 0.31 g, 90% yield | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C(=C(C=C2)F)C(=O)O | C15H17FN2O6
